US07169778B2
4. 6-(3,5-Dichloro-2,6-dimethoxypyridin-4-yl)-8-methyl-2-[[4-(morpholin-4-yl)phenyl]amino]-8H-pteridin-7-one
A mixture of 0.60 g (2 mmol) of 5-amino-4-(methylamino)-2-[[4-(morpholin-4-yl)phenyl]amino]pyrimidine, 1.23 g (4 mmol) of ethyl 2-(3,5-dichloro-2,6-dimethoxypyridin-4-yl)-2-oxoacetate, and 1 mL HOAc in 20 mL 2-methoxyethanol is heated under reflux for 16 hours. Workup in EtOAc, followed by chromatography on silica, eluting with hexane-EtOAc (3:2), gives 0.55 g (51%) of the title compound (Compound 18): mp (EtOH) 275–276° C.

reactant | 5-amino-4-(methylamino)-2-[[4-(morpholin-4-yl)phenyl]amino]pyrimidine | 2 mmol, 0.60 g | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCOCC1)NC | C15H20N6O
reactant | ethyl 2-(3,5-dichloro-2,6-dimethoxypyridin-4-yl)-2-oxoacetate | 4 mmol, 1.23 g | ClC=1C(=NC(=C(C1C(C(=O)OCC)=O)Cl)OC)OC | C11H11Cl2NO5
reactant | HOAc | 1 mL | CC(=O)O | C2H4O2
solvent | 2-methoxyethanol | 20 mL | COCCO | C3H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(3,5-Dichloro-2,6-dimethoxypyridin-4-yl)-8-methyl-2-[[4-(morpholin-4-yl)phenyl]amino]-8H-pteridin-7-one | 0.55 g, 51% | ClC=1C(=NC(=C(C1C1=NC=2C=NC(=NC2N(C1=O)C)NC1=CC=C(C=C1)N1CCOCC1)Cl)OC)OC | C24H23Cl2N7O4
